data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3092,"CC1=NC(=O)C([N+](=O)[O-])([N+](=O)[O-])C(=[O+:1][H:2])N1.O.O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,670,"O=C([O-])[C:1]1([H:2])OC2=C(C=CC=C2)[CH+:3]1.[Br-].[OH-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,6847,"COC1=CC=C([CH2:1][Br:2])C=C1.C[N:3](C)N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9795,"CC1CCCC[C+:1]1C.CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,9016,"C1CCC2=[NH+]CCCN2CC1.CC(=O)C(C(=O)C1=CC=CC=C1)C(C1=CC=CC=C1)[C:1](C=C(C)C1=CC=CC=C1)([C:2]1=[N+](C2=C(F)C(F)=C(F)C(F)=C2F)N=C2COC3CC4=C(C=CC=C4)C3N21)[O-:3].F[B-](F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9143,"CC(C)=CCC1=C(O)C=C(O)C(C=O)=C1C(C1=C(O)C(Cl)=C(C)C(Cl)=C1O)[O-:1].CC[N+:2](CC)(CC)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6489,"C[N+:1](C)=[CH2:2].[I-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9250,"C=[O+][Si-:1](C)(C)(C)[CH:2]=[C+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,5209,"C1=CC=C(C[N+:1]2=[C:2](C3=CC=CC=C3)[CH:3]([H:4])C=C2C2=CC=CC=C2)C=C1.CC(=O)[O-:5].O|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8204,"C[P:1](Cl)Cl.[Cl][Mg+:2]|(1, 2)"
train,pmechdb_split_0,0,10238,"C[S+:1]=[CH:2][NH-]|((2, 1), 1)"
train,pmechdb_split_0,0,8287,"C(C1=CC=CC=C1)#[C-:1].CC[NH+](CC)CC.CC[NH2+]CC.[I:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6904,"CC1(CCC(C)([NH+]2CCCC2C(=O)[O-])[O-:1])C(=O)CCC1=O.O=C([O-])C1CCC[NH+:2]1[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2291,"C[S-:1].O[P+:2](O)(O)[O:3][CH3:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,1397,"CCN[C:1]([CH2:2][H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8951,"CC[O-:1].O=[N+]([O-])[C:2]1=[C:3](F)C=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6700,"N#C[CH:1]=[NH2+:2].N#[C-:3].O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8793,"CO[C:1]1([O-:2])C2CC[C:3]1([C:4](OC)=[O:5])CC(C)C2O|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6713,"CC(=O)C(C1=CC=CC=C1)C(C)(CC1=CC=CC=C1)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1499,"C[C+:1](C)CCCO.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,4034,"CCC(=O)O[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.[Br:5][Br:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,7590,"CC(=O)[O-].CO.C[C:1](CCC(=O)C1=CC=CC=C1)([NH:2]C1CCCCC1N)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2251,"CCN(CC)C(C)(O)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3204,"C=CC(O)(OCC)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6396,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=C([NH:1][CH:2](C2=COC3=C(C=CC=C3)C2=O)[OH2+:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4249,"C[CH:1]=[C:2](C)[O-:3].[Br:4][Br:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5253,"O=CCOC(CO)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7815,"CC1=CC=C(S(=O)(=O)[NH+:1](CCC2=C(I)C=C3OCOC3=C2)[H:2])C=C1.CC[N:3](CC)CC.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,95,"CC1=CC23C(=O)C(CC(O[S+](C)[CH2:1][H:2])C(O)C24OC(=O)OC14)C1C(CC3C)C1(C)C.CC[N:3](CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6300,"CC[CH:1]1C(C)[Br+:2]1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4991,"CCC(C)=[O:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4975,"CC(=O)CC[C:1]([CH2:2][H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,9485,"CC(=O)[O-].CC(C)(C)[OH:1].CCN(CC)CC.CN(C)C1=CC=[N+]([C:2](CC2CCCCC2)=[O:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9435,"[Cl][Al-]([Cl])([Cl])[Cl+:1][C:2](CCCOC1=CC=CC=C1)=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8110,"CO[P+:1](C)(OC)[O:2][CH3:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1476,"C[C:1]1([H:2])CCCC[C:3]1=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2495,"CC1[C:1](C)(C)[C:2]12C=CC=C[CH+:3]2|((1, 2), 3)"
train,pmechdb_split_0,0,1087,"CO.CO[C:1](C1CC(O)CN1C(=O)OCC1=CC=CC=C1)([OH2+:2])[OH:3].O=S(=O)([O-])O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8122,"CC(C)=CCC1(C)CC=CC(C)(C)C1=[O+:1][Li-:2][NH+](C(C)C)C(C)C.[I-]|((2, 1), 1)"
train,pmechdb_split_0,0,8498,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2CC(CC(C)C)CC(C3CCCCC3)C2OC(C)=[O:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8124,"CC1(C)CCC[C+:1]2CCC[C:2]12[H:3].[OH2:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,6678,"CC[OH+:1][H:2].CC[OH+]C([O-])=[N:3]C(C)(C=CC1CC(C)CCC1C(C)C)C(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4676,"N#CC1=CC=CC(OCCCO[C:1]2([N+:2](=O)[O-])N=CN(C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[N-:3]2)=C1.[H][H].[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1603,"C[CH+:1][O:2][Zn-]([Cl])[Cl]|(2, 1)"
train,pmechdb_split_0,0,8093,"CC(=O)C1=C[CH:1]=[CH:2]O1.O=[N+:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8497,"CN(C)[C:1](O)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1665,"C[S:1][OH2+:2].[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9972,"BrC[C:1]1=[CH:2]C=CC=C1.C1=CC=C([CH2+:3])C=C1|((1, 2), 3)"
